US08236806B2
1-(3,4-dimethylphenyl)-4-(3-(1,5-diphenyl-1H-pyrazol-3-yl)propyl)piperazine (Compound 15)
Example 1 by using 3-(1,5-diphenyl-1H-pyrazol-3-yl)propanal (55 mg, 0.199 mmol), 1-(3,4-dimethylphenyl)piperazine (32 mg, 0.166 mmol), DIPEA (0.035 mL, 0.199 mmol) and NaBH(OAc)3 (148 mg, 0.697 mmol).

reactant | 3-(1,5-diphenyl-1H-pyrazol-3-yl)propanal | 0.199 mmol, 55 mg | C1(=CC=CC=C1)N1N=C(C=C1C1=CC=CC=C1)CCC=O | C18H16N2O
reactant | 1-(3,4-dimethylphenyl)piperazine | 0.166 mmol, 32 mg | CC=1C=C(C=CC1C)N1CCNCC1 | C12H18N2
reactant | DIPEA | 0.199 mmol, 0.035 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.697 mmol, 148 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3,4-dimethylphenyl)-4-(3-(1,5-diphenyl-1H-pyrazol-3-yl)propyl)piperazine | CC=1C=C(C=CC1C)N1CCN(CC1)CCCC1=NN(C(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C30H34N4
